* SPICE Netlist

VCC 5 0 DC 12V

IREF 5 6 DC 1mA

M_QREF 2 2 3 3 PMOS 
M_Q1 2 2 4 4 NMOS

C_VX 2 3 1nF

* Connections
* 1: VCC
* 2: VX
* 3: Ground
* 4: Q1 Terminal
* 5: IREF source
* 6: IREF destination

.model PMOS PMOS (Level=1 VTO=-0.7)
.model NMOS NMOS (Level=1 VTO=0.7)

.end